US04705791
Synthesis of the intermediate 1-(4-chlorophenylthio) methoxy-4-chloro-benzene
1-Bromomethylthio-4-chlorobenzene (20 mmol) in DMF (10 ml) was added with stirring at room temperature to a solution prepared from potassium tert-butoxide (20 mmol) and 4-chlorophenol (20 mmol) in DMF (50 ml). The resultant mixture was stirred at 80° C. for 1 h, the solvent was then distilled off, the residue triturated with water, the residual material extracted with chloroform, the dried (MgSO4) chloroform solution evaporated and the residue distilled; yield 3.65 g (64%), b.p. 135°-140° C./0.01 mmHg. 1H NMR (CDCl3): δ 5.29 (CH2), 6,6-7.4 (Ph's). MS [70 eV, m/Z (rel. int.)]; 2.84 (3,M), 159(36), 157 (100), 111 (15), 105 (13), 75 (21).

reactant | 1-Bromomethylthio-4-chlorobenzene | 20 mmol | BrCSC1=CC=C(C=C1)Cl | C7H6BrClS
reactant | potassium tert-butoxide | 20 mmol | CC(C)([O-])C.[K+]
reactant | 4-chlorophenol | 20 mmol | ClC1=CC=C(C=C1)O | C6H5ClO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(4-chlorophenylthio) methoxy-4-chloro-benzene | ClC1=CC=C(C=C1)SCOC1=CC=C(C=C1)Cl | C13H10Cl2OS
